US07423147B2
Step E. (4-Isopropyl-piperazin- 1-yl)-(5-piperidin-1-yimethyl-pyrazin-2-yl)-methanone.
A mixture of 5-piperidin-1-ylmethyl-pyrazine-2-carboxylic acid (0.125 g, 0.53 mmol),1-isopropyl-piperazine dihydrochloride (0.117 g, 0.58 mmol), HOBt (0.086 g, 0.64 mmol) and N-methylmorpholine (0.323 g, 3.19 mmol) in DCM (7 mL) was stirred for 1 h. The mixture was then treated with EDC (0.122 g, 0.64 mmol) and stirring was continued for 18 h. The reaction was quenched by the addition of 1 N NaOH (10 mL), and was stirred for 30 min. The mixture was diluted with H2O (10 mL) and extracted with DCM (3×15 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated to yield the crude product (0.145 g). The crude was purified on SiO2 using 0-5% 2 M NH3 in MeOH/DCM to provide the title compound (0.05 g, 26%). MS (ESI): exact mass calcd. for C18H29N5O, 331.46; m/z found 332.5 [M+H]+. 1HNMR (500 MHz, CDCl3): 8.85 (d, J=1.4,1H), 8.64 (d, J=1.4, 1H), 3.82 (t, J=4.9, 2H), 3.68 (s, 2H), 3.63 (t, J=4.9, 2H), 2.77-2.70 (m, 1H), 2.62 (t, J=4.9, 2H), 2.53 (t, J=4.9, 2H), 2.48-2.42 (m, 4H), 1.63-1.57 (m, 4H), 1.49-1.42 (m, 2H), 1.05 (d, J=6.6, 6H).

reactant | 5-piperidin-1-ylmethyl-pyrazine-2-carboxylic acid | 0.53 mmol, 0.125 g | N1(CCCCC1)CC=1N=CC(=NC1)C(=O)O | C11H15N3O2
reactant | 1-isopropyl-piperazine dihydrochloride | 0.58 mmol, 0.117 g | Cl.Cl.C(C)(C)N1CCNCC1
reactant | HOBt | 0.64 mmol, 0.086 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 3.19 mmol, 0.323 g | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.64 mmol, 0.122 g
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropyl-piperazin- 1-yl)-(5-piperidin-1-yimethyl-pyrazin-2-yl)-methanone | 0.05 g, 26% | C(C)(C)N1CCN(CC1)C(=O)C1=NC=C(N=C1)CN1CCCCC1 | C18H29N5O
